US04224438
In an analogous manner, by the reaction of free adenosine-5'-carboxylic acid with ethanol, there is obtained adenosine-5'-carboxylic acid ethyl ester in a yield of 78% of theory (m.p. 204°-205° C.) and by the reaction of free adenosine-5'-carboxylic acid with n-butanol, there is obtained adenosine-5'-carboxylic acid n-butyl ester in a yield of 54% of theory (m.p. 167° C.).

reactant | adenosine-5'-carboxylic acid | [C@@H]1([C@H](O)[C@H](O)[C@@H](C(O)C(=O)O)O1)N1C=NC=2C(N)=NC=NC12 | C11H13N5O6
solvent | n-butanol | C(CCC)O | C4H10O
product | adenosine-5'-carboxylic acid n-butyl ester | yield of 54% | C(CCC)OC(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O | C15H21N5O6
